US06194410B1
0.15 g of Pd/C (10%) and 0.3 ml of NEt3 were added to a solution of 0.189 g (0.4 mmol) of 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 30 ml of EtOH and hydrogenated at RT for 12 hrs. The reaction mixture was filtered over Dicalite and the filtrate was evaporated. Chromatography of the residue (SiO2, CH2Cl2/MeOH 20:1) yielded 0.08 g (49%) of 3-benzenesulphonyl-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine as colorless crystals, m.p. 107-109°.

reactant | NEt3 | 0.3 ml | CCN(CC)CC | C6H15N
reactant | 3-benzenesulphonyl-5-chloro-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.4 mmol, 0.189 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)C)Cl)SC | C18H20ClN5O2S2
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 3-benzenesulphonyl-7-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.08 g, 49% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=CC=C2N2CCN(CC2)C)SC | C18H21N5O2S2
